US08106064B2
1-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-1H-pyrimidine-2,4-dione (160):
5-Isopropyl-6-(2,3,5-trimethyl-phenoxy)-1H-pyrimidine-2,4-dione (39 mg, 0.135 mmol) was dissolved in 1.5 mL DMF. Potassium carbonate (31 mg, 2 eq.) was added and the reaction was stirred at room temperature for 10 minutes. Methanesulfonic acid 2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl ester (0.135 mmol) and lithium iodide (15 mg, 1 eq.) were added. The reaction was stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture, followed by washing with brine. The organic layer was concentrated down and purified (silica gel, 0-80% EtOAC/hexane) to give white powder (25 mg, 42%). LC-MS shows 533.1 (M+1). 1H NMR (300 MHz, CDCl3): δ 8.68 (b, 1H), 7.22 (d, 2H), 6.86 (d, 2H), 6.75 (s, 1H), 6.18 (s, 1H), 5.95 (d, 2H), 4.94 (d, 1H), 4.45 (d, 1H), 4.37 (s, 2H), 3.80 (s, 3H), 2.68 (m, 1H), 2.23 (s, 3H), 2.19 (s, 3H), 2.06 (s, 3H), 1.15 (dd, 6H).

reactant | 5-Isopropyl-6-(2,3,5-trimethyl-phenoxy)-1H-pyrimidine-2,4-dione | 0.135 mmol, 39 mg | C(C)(C)C=1C(NC(NC1OC1=C(C(=CC(=C1)C)C)C)=O)=O | C16H20N2O3
reactant | Potassium carbonate | 31 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | Methanesulfonic acid 2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl ester | 0.135 mmol | FC1=NC(=CC(=C1)COS(=O)(=O)C)NCC1=CC=C(C=C1)OC | C15H17FN2O4S
reactant | lithium iodide | 15 mg, 1 eq. | [I-].[Li+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-1H-pyrimidine-2,4-dione | 25 mg, 42% | FC1=NC(=CC(=C1)CN1C(NC(C(=C1OC1=C(C(=CC(=C1)C)C)C)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C30H33FN4O4
